### PR TITLE
[Merged by Bors] - feat: the sheafification functor for presheaves of modules

### PR DESCRIPTION
**Pull request by joelriou**
In this PR, we construct the sheafification functor for presheaves of modules, and show that it is a left adjoint functor.

---

- [x] depends on: #11555
- [x] depends on: #13447 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/ChangeOfRings.lean [hunk 1]
```diff
@@ -36,3 +37,29 @@ noncomputable def restrictScalars :
...
+      map_smul := fun X r' m => by
+        apply hM₂.isSeparated _ _ (Presheaf.imageSieve_mem J α r')
+        rintro Y p ⟨r : R.obj _, hr⟩
+        erw [M₂.map_smul, ← NatTrans.naturality_apply g.hom p.op m,
+          ← hr, ← g.map_smul _ r (M₁.presheaf.map p.op m),
+          ← NatTrans.naturality_apply g.hom p.op (r' • m),
+          M₁.map_smul p.op r' m, ← hr]
+        rfl }
+  left_inv _ := rfl
+  right_inv _ := rfl
```
Comment (erdOne) [inline Mathlib/Algebra/Category/ModuleCat/Sheaf/ChangeOfRings.lean:63]: Should this use the new `fullyFaithful` API?

File: Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafification.lean [hunk 2]
```diff
@@ -0,0 +1,119 @@
...
+  map_id M₀ := by
+    ext1
+    apply (toPresheaf _).map_injective
+    simp [toPresheaf, sheafify]
+  map_comp _ _ := by
+    ext1
+    apply (toPresheaf _).map_injective
+    simp [toPresheaf, sheafify]
+
+attribute [-simp] sheafification_map
```
Comment (erdOne) [inline Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafification.lean:49]: Is this local or global? If latter, you can use `simps (config := .lemmasOnly)` in the `simps` above.

File: Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafification.lean [hunk 3]
```diff
@@ -0,0 +1,119 @@
...
+        P.presheaf ((SheafOfModules.toSheaf R).obj F)).symm g.hom) := by
+  obtain ⟨f, rfl⟩ := (sheafificationHomEquiv α).surjective g
+  apply ((sheafificationAdjunction J AddCommGroupCat).homEquiv _ _).injective
+  rw [Equiv.apply_symm_apply, Adjunction.homEquiv_unit, Equiv.symm_apply_apply]
+  rfl
+
+/-- Given a locally bijective morphism `α : R₀ ⟶ R.val` where `R₀` is a presheaf of rings
+and `R` a sheaf of rings, this is the adjunction
+`sheafification.{v} α ⊣ SheafOfModules.forget R ⋙ restrictScalars α`. -/
+noncomputable def sheafificationAdjunction :
```
Comment (erdOne) [inline Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafification.lean:102]: Can you provide simp lemmas for this?

File: Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafify.lean [hunk 4]
```diff
@@ -317,4 +312,71 @@ noncomputable def sheafify : SheafOfModules.{v} R where
...
+
+lemma comp_sheafifyHomEquiv'_symm_hom {F : PresheafOfModules.{v} R.val}
+    (hF : Presheaf.IsSheaf J F.presheaf) (f : M₀ ⟶ (restrictScalars α).obj F) :
+    φ ≫ ((sheafifyHomEquiv' α φ hF).symm f).hom = f.hom :=
+  congr_arg Hom.hom ((sheafifyHomEquiv' α φ hF).apply_symm_apply f)
+
+/-- The bijection
+`(sheafify α φ ⟶ F) ≃ (M₀ ⟶ (restrictScalars α).obj ((SheafOfModules.forget _).obj F))`
+which is part of the universal property of the sheafification of the presheaf of modules `M₀`,
+for any sheaf of modules `F`. -/
```
Comment (erdOne) [inline Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafify.lean:349]: Can you reference the adjunction in the docstring?

File: Mathlib/Algebra/Category/ModuleCat/Sheaf/ChangeOfRings.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/Algebra/Category/ModuleCat/Sheaf/ChangeOfRings.lean:63]: No, we cannot, because there is an extra assumption on the target object (it has to be a sheaf).

File: Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafification.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafification.lean:102]: I will add a lemma for the `homEquiv` field of the adjunction. However, I think we need to fix an issue with the general `Adjunction` API: the lemmas `Adjunction.homEquiv_(co)unit` expressing `homEquiv` and `homEquiv.symm` in terms of the `unit`  and `counit` are simp lemmas, which is problematic for adjunctions that are mainly defined using `Adjunction.mkOfHomEquiv`.

Comment (erdOne) [reply Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafification.lean:102]: Doesn't the units and counits have good descriptions? (`toSheafify` and some isomorphism)

Comment (joelriou) [reply Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafification.lean:103]: I have added lemmas for `homEquiv` and `unit`.

File: Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafification.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafification.lean]: Thanks for the suggested syntax!

File: Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafify.lean (hunk 4 above)
Comment (joelriou) [reply Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafify.lean]: Thanks again for reviews! Done.

File: Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafification.lean (hunk 3 above)
Comment (erdOne) [reply Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafification.lean:101]: Will we get the description of the counit later in the future?

**Comment by erdOne** [comment]
Thanks!
maintainer merge

File: Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafification.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafification.lean:101]: I do not think so, as I am not sure there is much to say about the counit.

Comment (erdOne) [reply Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafification.lean:101]: I was thinking about something along the lines of 
```lean
def forgetRestrictScalarsFullyFaithful [Presheaf.IsLocallySurjective J α] :
    (SheafOfModules.forget.{v} R ⋙ restrictScalars α).FullyFaithful := by
  fconstructor
  · intro M N f
    refine ⟨f.1, ?_⟩
    intros U r x
    have := Presheaf.isSheaf_comp_of_isSheaf J N.1.presheaf (forget _) N.2
    have := ((isSheaf_iff_isSheaf_of_type _ _).mp this _ (Presheaf.imageSieve_mem J α r))
    apply this.isSeparatedFor.ext
    rintro V i ⟨r' : R₀.obj (.op V), hr'⟩
    simp only [Functor.comp_obj, Opposite.op_unop, SheafOfModules.forget_obj, restrictScalars_obj,
      Functor.comp_map, AddCommGroupCat.forget_map, PresheafOfModules.map_smul, ← hr']
    erw [← NatTrans.naturality_apply f.hom i.op, ← NatTrans.naturality_apply f.hom i.op,
      ← f.map_smul, PresheafOfModules.map_smul] -- bad
    rw [← hr']
    rfl
  · exact fun f ↦ rfl
  · exact fun f ↦ rfl

example [Presheaf.IsLocallySurjective J α] : IsIso (sheafificationAdjunction α).counit :=
  letI := (forgetRestrictScalarsFullyFaithful α).faithful
  letI := (forgetRestrictScalarsFullyFaithful α).full
  inferInstance
```

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

File: Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafification.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/Algebra/Category/ModuleCat/Presheaf/Sheafification.lean:101]: Yes, apart from saying that the counit is an iso, we cannot say much :-)
